US08664401B2
Step D) N-Hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(pyridin-2-yloxy)phenyl]pyridin-1(2H)-yl}butanamide
Methanol (25 mL) was added to a solution of 2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(pyridin-2-yloxy)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (212 mg, 0.39 mmol) in 4.0 M hydrochloric acid in 1,4-dioxane (4.9 mL) at room temperature. After 1 h, the reaction was concentrated under reduced pressure. The resulting residue was triturated with 10:1 diethyl ether-methanol, filtered, and dried under reduced pressure to provide a white solid (168 mg, 88%). LCMS m/z 458.6 (M+1). 1H NMR (400 MHz, CD3OD) δ ppm 1.73 (s, 3H), 2.41 (ddd, J=13, 10.5, 5 Hz, 1H), 2.67 (ddd, J=13, 10.5, 5 Hz, 1H), 3.11 (s, 3H), 4.06 (ddd, J=13, 11, 5 Hz, 1H), 4.39 (ddd, J=13, 11, 5 Hz, 1H), 6.97-7.00 (m, 2H), 7.25 (br d, J=8.7 Hz, 1H), 7.47 (d, J=8.8 Hz, 2H), 7.56 (ddd, J=7.4, 5.8, 0.9 Hz, 1H), 7.90-7.94 (m, 3H), 8.33 (ddd, J=8.7, 7.4, 1.9 Hz, 1H), 8.47 (ddd, J=5.8, 1.9, 0.6 Hz, 1H).

reactant | Methanol | 25 mL | CO | CH4O
reactant | 2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(pyridin-2-yloxy)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.39 mmol, 212 mg | CC(C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=C(C=C1)OC1=NC=CC=C1)=O)S(=O)(=O)C | C27H31N3O7S
solvent | hydrochloric acid | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 4.9 mL | O1CCOCC1 | C4H8O2
product | N-Hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(pyridin-2-yloxy)phenyl]pyridin-1(2H)-yl}butanamide | 168 mg, 88% | ONC(C(CCN1C(C=C(C=C1)C1=CC=C(C=C1)OC1=NC=CC=C1)=O)(S(=O)(=O)C)C)=O | C22H23N3O6S
